US06465433B1
A. Dimethyl (2-quinolylmethyl)acetamidomalonate
To a solution of 2(chloromethyl)quinoline monohydrochloride (5.0 g, 23.4 mmol) and diethyl acetamidomalonate (10.1 g, 46.7 mmol) in EtOH (60 mL) was added sodium methoxide (3.78 g, 70 mmol). The reaction mixture was heated at reflux for 6 h. The reaction mixture was cooled, filtered, and concentrated. The residue was dissolved in EtOAc (400 mL) and extracted with cold 4NHCl (3×150 mL). The aqueous layer was neutralized with 10N NaOH and extracted with EtOAc (3×200 mL). The combined organic extract was washed with water, dried (anhydrous MgSO4), filtered, and concentrated to give the title compound (8.3 g).

reactant | 2(chloromethyl)quinoline monohydrochloride | 23.4 mmol, 5.0 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | diethyl acetamidomalonate | 46.7 mmol, 10.1 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | sodium methoxide | 70 mmol, 3.78 g | C[O-].[Na+]
solvent | EtOH | 60 mL | CCO | C2H6O
product | Dimethyl (2-quinolylmethyl)acetamidomalonate | 8.3 g | N1=C(C=CC2=CC=CC=C12)CCC(=O)NC(C(=O)OC)C(=O)OC | C17H18N2O5
